US08685974B2
To a solution of 4-bromo-2-aminopyridine (580 mmol) in 1.5 L dichloromethane was added pyridine (1.16 mol). The mixture was stirred for 20 min. Propionyl chloride (669 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 5 h. Water was added and the reaction mixture was extracted with dichloromethane. The combined organic layer was washed with brine, dried and concentrated. The residue was recrystallized from hexane/ethyl acetate (6:1) to afford 112 g of N-(4-bromopyridin-2-yl)propanamide (85% yield).

reactant | 4-bromo-2-aminopyridine | 580 mmol | BrC1=CC(=NC=C1)N | C5H5BrN2
reactant | pyridine | 1.16 mol | N1=CC=CC=C1 | C5H5N
reactant | Propionyl chloride | 669 mmol | C(CC)(=O)Cl | C3H5ClO
reactant | Water | O | H2O
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
product | N-(4-bromopyridin-2-yl)propanamide | 112 g, 85% yield | BrC1=CC(=NC=C1)NC(CC)=O | C8H9BrN2O
